US08604074B2
Step 2. Synthesis of 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)oxazolidin-2-one
A solution of triphosgene (0.0890 g, 0.300 mmol, 0.35 equiv) in 2 mL anhydrous CH2Cl2 was added dropwise to a solution of 1-amino-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol (0.3413 g, 0.857 mmol) and Et3N (0.1909 g, 1.886 mmol) in 1 mL CH2Cl2 under N2 atmosphere at 4° C. The reaction mixture was stirred for 15 min at 4° C. and then warmed to room temperature and stirred for 1 hour. CH2Cl2 was removed under vacuum. Saturated NH4Cl (5 mL) and 10 mL EtOAc was added to the residue and stirred for 20 min. Then the aqueous layer was separated and the organic layer was washed with water 2×10 mL. The combined aqueous layers were extracted with EtOAc, dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using CH2Cl2/EtOAc to afford 0.1173 g white solid, yield 20.0% over 2 steps.

reactant | triphosgene | 0.300 mmol, 0.0890 g, 0.35 equiv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-amino-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol | 0.857 mmol, 0.3413 g | NCC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)O | C15H14Br2N2O
reactant | Et3N | 1.886 mmol, 0.1909 g | CCN(CC)CC | C6H15N
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)oxazolidin-2-one | 0.1173 g, yield 20.0% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1CNC(O1)=O | C16H12Br2N2O2
